US05532240
To a solution of 0.4 g of 3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)acetyl)-2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one (m.p. 175°-176° C. as oxalate thereof) in 20 ml of methanol was added 0.5 g of sodium borohydride under cooling. The mixture was stirred for 10 minutes and concentrated. Water was added thereto and the solution was extracted with ethyl acetate. The extract was washed with water, dried and the solvent was distilled away. The residue was treated with fumaric acid in ethanol and recrystallized from ethanol to give 0.22 g of 3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)-1-hydroxyethyl)-2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one difumarate monohydrate, m.p. 116°-118° C.

reactant | 3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)acetyl)-2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one | 0.4 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(=O)C2=C(SC3=C2C(NCCC3)=O)C)C=C1 | C23H24FN3O3S
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
product | 3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)-1-hydroxyethyl)-2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one difumarate monohydrate | 0.22 g | O.C(\C=C\C(=O)O)(=O)O.C(\C=C\C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(O)C2=C(SC3=C2C(NCCC3)=O)C)C=C1 | InChI=1S/C23H26FN3O3S.2C4H4O4.H2O/c1-13-20(21-19(31-13)3-2-8-25-23(21)29)17(28)12-27-9-6-14(7-10-27)22-16-5-4-15(24)11-18(16)30-26-22;2*5-3(6)1-2-4(7)8;/h4-5,11,14,17,28H,2-3,6-10,12H2,1H3,(H,25,29);2*1-2H,(H,5,6)(H,7,8);1H2/b;2*2-1+;
